US07109357B2
A solution of (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (0.11 g, 0.5 mmol), di-isopropylethylamine (0.18 mL, 1.0 mmol), and tetramethylfluoroformamidinium hexafluorophosphate (TFFH) (0.13 g, 0.5 mmol) in dichloromethane (3 mL) was stirred at room temperature under nitrogen for 3 h. A solution of 4-[(triphenylphosphoranylidene)amino]-5-ethoxy-dihydrofuran -2-one (0.20 g, 0.5 mmol) in dichloromethane (3 mL) was added and the mixture was stirred for 24 h. The reaction was diluted with ethyl acetate, was washed with 10% sodium bisulfate, saturated sodium bicarbonate, and brine, was dried over sodium sulfate, and was evaporated. Purification by flash chromatography (SiO2) eluted with 1:1 ethyl acetate:hexanes provided (R)-2-(2-ethoxy-5-oxo-tetrahydrofuran -3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.11 g, 65% yield) as a very viscous, pale yellow oil.

reactant | (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.5 mmol, 0.11 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | di-isopropylethylamine | 1.0 mmol, 0.18 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tetramethylfluoroformamidinium hexafluorophosphate | 0.5 mmol, 0.13 g | F[P-](F)(F)(F)(F)F.CN(C(=[N+](C)C)F)C
reactant | 4-[(triphenylphosphoranylidene)amino]-5-ethoxy-dihydrofuran -2-one | 0.5 mmol, 0.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1CC(OC1OCC)=O | C24H24NO3P
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-(2-ethoxy-5-oxo-tetrahydrofuran -3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.11 g, 65% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC1C(OC(C1)=O)OCC)=O | C16H26N2O6
